US06277849B1
10 g of lithium aluminium hydride are placed in 200 ml of tetrahydrofuran; the mixture is stirred at room temperature. 25.8 g of 1-[2-methoxy-4-(2-nitro-vinyl)-phenoxymethyl]-naphthalene dissolved in 300 ml of tetrahydrofuran are added dropwise thereto over a period of 90 minutes. The reaction mixture is heated at reflux for 4 hours. After cooling, 40 ml of 1 N sodium hydroxide solution are cautiously added dropwise, external cooling being effected using an ice bath. When the addition is complete, the reaction mixture is stirred, without cooling, for one hour, then filtered with suction over Celite and washed with a small amount of tetrahydrofuran. The filtrate is dried over potassium carbonate and concentrated by evaporation, yielding 2-[3-methoxy-4-(naphthalen-1-ylmethoxy)-phenyl]-ethylamine in the form of a brown oil.

reactant | lithium aluminium hydride | 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-[2-methoxy-4-(2-nitro-vinyl)-phenoxymethyl]-naphthalene | 25.8 g | COC1=C(OCC2=CC=CC3=CC=CC=C23)C=CC(=C1)C=C[N+](=O)[O-] | C20H17NO4
reactant | sodium hydroxide | 1 N, 40 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-[3-methoxy-4-(naphthalen-1-ylmethoxy)-phenyl]-ethylamine | COC=1C=C(C=CC1OCC1=CC=CC2=CC=CC=C12)CCN | C20H21NO2
